Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
nausea/vomiting, epigastric pain
 
Major Surgical or Invasive Procedure:
EGD
 
History of Present Illness:
___ year old G3P0 @ 11w1d who presents to ED with multiple 
episodes of nausea, vomiting and epigastric pain. She was 
discharge home this morning after being hospitalized since ___. 
During her hospitalization her symptoms improved with 
antiemetics and she was able to tolerate a regular diet. Since 
going home she reports her N/V and epigastric pain returned and 
she was unable to tolerate her lunch of cereal. The pain is 
stable mid-epigastric which is sharp and non radiating.

She denies any fever, chills, vaginal bleeding, lower abdominal 
cramping or leakage of fluid, diarrhea, hematochezia, 
hematemesis.

In the ED, patient has received multiple anti-emetics and IVF, 
but has been experiencing persistent nausea despite these 
measures.
 
Past Medical History:
PNC:
1. ___: ___ by ___ ___. PNC @ ___ with ___
3. Per report + Chlamydia 3 weeks ago s/p treatment

OBHx:
G3P0
SAB x 2 requiring D&C
Current pregnancy

GynHx: Denies history of abnormal Pap tests or Fibroids. +
Chlamydia 3 weeks ago s/p treatment

PMH:
GERD and gastritis

PSH: D&C x 2
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
(on admission)
VITALS: T 96.7, BP 125/75, RR 16, 100% RA
GENERAL: NAD, appears unwell
CV: RRR
PULM: CTAB
ABDOMEN: Soft, mild TTP in epigastrium, non-distended, no 
guarding and no rebound. negative murphies

bedside US with +IUP with good movement and fluid + ___ FHR
 
Pertinent Results:
___ WBC-12.5 RBC-3.89 Hgb-11.7 Hct-33.2 MCV-85 Plt-285
___ WBC-12.6 RBC-3.86 Hgb-11.8 Hct-33.1 MCV-86 Plt-282
___ WBC-13.0 RBC-3.86 Hgb-11.9 Hct-33.2 MCV-86 Plt-334
___ WBC-14.4 RBC-3.97 Hgb-12.2 Hct-33.8 MCV-85 Plt-282

___ Glu-95 BUN-5 Creat-0.6 Na-134 K-3.5 Cl-103 HCO3-20
___ Glu-88 BUN-6 Creat-0.6 Na-137 K-3.3 Cl-106 HCO3-24
___ Glu-103 BUN-5 Creat-0.6 Na-136 K-3.8 Cl-105 HCO3-22
___ Glu-96 BUN-5 Creat-0.5 Na-132* K-3.5 Cl-101 HCO3-22

___ CK-MB-2 cTropnT-<0.01

___ Albumin-4.0 Calcium-8.8 Phos-2.8 Mg-1.7 Lipase-90

___ ALT-55 AST-32 Amylase-55 Lipase-50

___ Calcium-8.6 Phos-3.5 Mg-2.4
___ Calcium-9.0 Phos-2.7 Mg-1.9
___ Calcium-9.0 Phos-3.4 Mg-1.9

___ HBsAg-NEGATIVE

___ 10:00PM URINE Blood-TR Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:00PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-24
___ 11:11PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

RAPID PLASMA REAGIN TEST (Final ___: 
 NONREACTIVE. 

Rubella IgG/IgM Antibody (Final ___: 
 POSITIVE by Latex Agglutination
 
Brief Hospital Course:
Ms ___ is a ___ year old G3P0 admitted at 11w1d with 
persistent nausea, vomiting and epigastric pain. She received IV 
fluids, standing antiemetics, and IV Ativan. She had already 
undergone a workup for her abdominal pain, including an MRI and 
RUQ ultrasound which did not reveal any pathology. GI was 
consulted and performed an EGD which revealed severe gastritis. 
Recommendations were to continue high dose PPI. Biopsies were 
taken at the time of her EGD. By hospital day #4, her symptoms 
had improved and she was tolerating a regular diet.  She had no 
vomiting in 24 hours and all of her medications were 
transitioned to PO.   
.
In regards to her anxiety, social services has been following 
her and she was continue on Ativan prn.  This helped a great 
deal.  
.
The patient was discharged to home on hospital day number 4 and 
has an initial prenatal appointment scheduled in one week.  

 
Medications on Admission:
none
 
Discharge Medications:
1. lorazepam 0.5 mg Tablet Sig: One (1) Tablet PO every four (4) 
hours as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*2*
2. pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
3. ondansetron 8 mg Tablet, Rapid Dissolve Sig: One (1) Tablet, 
Rapid Dissolve PO Q8HOURS ().
Disp:*120 Tablet, Rapid Dissolve(s)* Refills:*2*
4. prochlorperazine maleate 10 mg Tablet Sig: One (1) Tablet PO 
Q6H (every 6 hours) as needed for nausea.
Disp:*60 Tablet(s)* Refills:*0*
5. promethazine 25 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for nausea.
Disp:*60 Tablet(s)* Refills:*0*
6. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).
Disp:*60 Capsule(s)* Refills:*2*
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyperemesis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
You were admitted with hyperemesis (nausea and vomiting caused 
by pregnancy).  During your hospital course you had an EGD which 
demonstrated gastritis - this is common finding with 
hyperemesis.  Please take all of your medication as instructed.  
Please follow up with us as scheduled.  Please call if you are 
unable to tolerate any food, vaginal bleeding, severe abdominal 
pain, or any other concerning symptoms
 
Followup Instructions:
___